US04208510
Preparation of Methyl 2-[3-[3-(Trifluoromethyl)-Phenyl]-5-Isoxazolyl]Benzoate
A mixture of 2 g. (0.006 mole) of 3'-(m-trifluoromethylphenyl)-spiro[isobenzofuran-1(3H), 5'(4'H)-isoxazol]-3-one, 2 ml. of concentrated sulfuric acid and 50 ml. of methanol was heated at reflux for 17 hours. The solution was then poured into 100 g. of ice and extracted twice with 300 ml. of ether. The ether solutions were combined, washed twice with water saturated sodium chloride, and dried over CaSO4. Removal of the solvent gave 2 g. of colorless viscous liquid, which was crystallized from hexane at 0° C. to give colorless crystals; m.p. 46°-48° C.

reactant | 3'-(m-trifluoromethylphenyl)-spiro[isobenzofuran-1(3H), 5'(4'H)-isoxazol]-3-one | 0.006 mole | FC(C=1C=C(C=CC1)C1=NOC2(C1)OC(C1=CC=CC=C12)=O)(F)F | C17H10F3NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | Methyl 2-[3-[3-(Trifluoromethyl)-Phenyl]-5-Isoxazolyl]Benzoate | FC(C=1C=C(C=CC1)C1=NOC(=C1)C1=C(C(=O)OC)C=CC=C1)(F)F | C18H12F3NO3
